US07235537B2
Step D: 6-(4-Bromo-2-chloro-phenylamino)-7-fluoro-3-(3-oxo-3-pyrrolidin-1-yl-propyl)-3H-benzoimidazole-5-carboxylic acid
To a solution of 6-(4-bromo-2-chloro-phenylamino)-7-fluoro-3-(3-oxo-3-pyrrolidin-1-yl-propyl)-3H-benzoimidazole-5-carboxylic acid methyl ester (41 mg, 0.079 mmol) in THF/H2O (1.5 mL/0.75 mL) is added 0.20 mL (0.20 mmol) of 1 N aq LiOH at rt. The resulting solution is stirred 16 hours. The reaction mixture is acidified with 1 N aq HCl (pH ˜2 to 3) and diluted with EtOAc. The organic layer is dried over MgSO4, filtered, and concentrated in vacuo to give a crude product (42 mg) which is directly used without further purification.

reactant | 6-(4-bromo-2-chloro-phenylamino)-7-fluoro-3-(3-oxo-3-pyrrolidin-1-yl-propyl)-3H-benzoimidazole-5-carboxylic acid methyl ester | 0.079 mmol, 41 mg | COC(=O)C1=CC2=C(N=CN2CCC(N2CCCC2)=O)C(=C1NC1=C(C=C(C=C1)Br)Cl)F | C22H21BrClFN4O3
reactant | LiOH | 0.20 mmol, 1 N, 0.20 mL | [Li+].[OH-]
reactant | HCl | 1 N, pH ˜2 to 3 | Cl | ClH
solvent | THF H2O | 1.5 mL | C1CCOC1.O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-(4-Bromo-2-chloro-phenylamino)-7-fluoro-3-(3-oxo-3-pyrrolidin-1-yl-propyl)-3H-benzoimidazole-5-carboxylic acid | 42 mg | BrC1=CC(=C(C=C1)NC=1C(=CC2=C(N=CN2CCC(N2CCCC2)=O)C1F)C(=O)O)Cl | C21H19BrClFN4O3
